US06492401B1
2-Methyl-5-phenyl-2H-pyrazole-3-carboxylic acid.
2-Methyl-5-phenyl-2H-pyrazole-3-carboxylic acid ethyl ester (0.32 g, 1.39 mmol) was dissolved in 4.5 mL of tetrahydrofuran, 1.5 mL of methanol and 1.5 mL of water, and treated with lithium hydroxide hydrate (0.12 g, 2.78 mmol). After stirring at room temperature overnight, the mixture was acidified (pH =1) with hydrochloric acid, and extracted with ethyl acetate (3×10 mL) and the combined organic phases washed with 10 mL of brine. The organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo to afford a quantitative yield of the title compound.

reactant | 2-Methyl-5-phenyl-2H-pyrazole-3-carboxylic acid ethyl ester | 1.39 mmol, 0.32 g | C(C)OC(=O)C=1N(N=C(C1)C1=CC=CC=C1)C | C13H14N2O2
reactant | methanol | 1.5 mL | CO | CH4O
reactant | lithium hydroxide hydrate | 2.78 mmol, 0.12 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 2-Methyl-5-phenyl-2H-pyrazole-3-carboxylic acid | quantitative yield | CN1N=C(C=C1C(=O)O)C1=CC=CC=C1 | C11H10N2O2
